US06110962
Benzo[b]thiophene-2-yl-(phenyl)-methanol
n-Butyl lithium (35 ml, 2.5 N in hexanes) was added dropwise to a stirred solution of thianaphthene (11.5 g, 85.6 mmol) in THF (300 mL) at -78° C. under a dry N2 atmosphere. After 1 h, benzaldehyde (9.6 mL, 94.4 mmol) was added and the cold bath was removed. After an additional 30 minutes, sat. aq. NH4Cl was added and the reaction mixture was partitioned between water and ether. The ether phase was washed with brine and concentrated. The resultant solid was triturated with pet. ether and filtered to provide the title compound as a white solid (17.7 g, 86%): NMR (CDCl3); δ 7.78 (m, 1H, thiopheneH), 7.68 (m, 1H, thiopheneH), 7.22-7.56 (m, 7H), 7.12 (s, 1H, thiopheneH), 6.12 (d, 1H, OH), 2.51 (d, 1H, CH).

reactant | n-Butyl lithium | 2.5 N, 35 ml | C(CCC)[Li]
reactant | thianaphthene | 85.6 mmol, 11.5 g | C=1C=CC2=C(C1)C=CS2 | C8H6S
reactant | benzaldehyde | 94.4 mmol, 9.6 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | Benzo[b]thiophene-2-yl-(phenyl)-methanol | 17.7 g, 86% | S1C2=C(C=C1C(O)C1=CC=CC=C1)C=CC=C2 | C15H12OS
